US04305945
Reaction of 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone with 5-aminopentanol in refluxing pyridine gives 2-(5-hydroxypentylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone which can be converted into 2-[5-(O-isoureido)-pentylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone by the procedure of Example 5(iii).

reactant | 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
reactant | 5-aminopentanol | NCCCCCO | C5H13NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(5-hydroxypentylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | OCCCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C16H22N4O2
